US07268152B2
Synthesis of 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]benzoic acid
To a solution of 106 mg (0.266 mmol) 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]benzaldehyde in 5 mL dichloromethane was added 42 mg (0.266 mmol) of potassium permanganate and the reaction stirred at room temperature. The reaction was monitored by TLC. After several hours, a few drops of water were added and the potassium permanganate dissolved. After 1 hour, a few drops of glacial acetic acid was added followed by 42 mg (0.226 mmol) of potassium permanganate. After 4 days, the reaction was filtered through diatomaceous earth. The pH of the filtrate was adjusted (pH 6) with saturated aqueous sodium bicarbonate and extracted with dichloromethane. The combined organics layers were washed with 1 N aqueous HCl, dried over magnesium sulfate, and concentrated to leave a light brown oil. The crude residue was concentrated from hexanes-diethyl ether to afford and off-white solid. Recrystallization from hexanes-diethyl ether gave 26 mg (24%) of the title compound, m.p. 174° C.-177° C.

reactant | 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]benzaldehyde | 0.266 mmol, 106 mg | FC=1C=CC(=C(C1)C(CC(CC1=CC=C(C=O)C=C1)(C(F)(F)F)O)(C)C)OC | C21H22F4O3
reactant | potassium permanganate | 0.266 mmol, 42 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | potassium permanganate | 0.226 mmol, 42 mg | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | water | a few drops | O | H2O
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]benzoic acid | 26 mg, 24% | FC=1C=CC(=C(C1)C(CC(CC1=CC=C(C(=O)O)C=C1)(C(F)(F)F)O)(C)C)OC | C21H22F4O4
